Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Pericardial Effusion
 
Major Surgical or Invasive Procedure:
___ Pericardial drain placement
___ L VATS - pericardial window, mediastinal LN dissection

 
History of Present Illness:
Ms. ___ is a ___ male who is an inmate at ___ ___ years with hypertension, hyperlipidemia,
non-insulin-dependent diabetes, who presents now with possibly 1
month of worsening shortness of breath dry cough.

The patient was  seen at ___ ER prior to arrival and had a
Chest CT preformed which demonstrated right upper and middle 
lobe
pneumonia and large pericardial effusion with right axillary
hilar lymphadenopathy and cervical lymphadenopathy as well as a 
3
cm consolidative opacity in the left upper lobe with irregular
margins as well as additional foci of consolidation in the left
upper lobe and right middle lobe. 

The patient was then transferred to ___ for further evaluation
pericardial fluid drainage. 

In regards to the patients 3 cm consolidative opacity in the 
left
upper lobe, the patient denies cough productive of purulent or
blood. 

He denies a  history of known tuberculosis exposure. 

He does however confirm loosing lost an unspecified amount of
weight prior to arrival. Intermittent chills. No night sweats. 
No
chest pain. No belly pain nausea or vomiting. No rash. Patient
denies any other underlying medical disease.

In the ED,  
 - Initial vitals were: T:97 HR 70 BP 140/62 RR 16 

 - Exam notable for: 
 no appreciable JVD, no pedal edema, intermittent wheezes on
right sided posterior lung fields, heart sounds somewhat 
muffled,
point-of-care ultrasound with pericardial effusion without
evidence of intraventricular dependence to suggest tamponade. EF
preserved by end point septal separation 

 - Labs notable for: Trop <0.01 at OSH, BNP 189 

 - Studies notable for: 
CT: 
-Large simple appearing pericardial effusion. Per the ED, 
patient
has been ordered echocardiogram to further assess for cardiac
tamponade. Small bilateral pleural effusions.
-3 cm consolidative opacity in the left upper lobe with 
irregular
margins as well as additional foci of consolidation in the left
upper lobe and right middle lobe. 
-Mediastinal and hilar adenopathy. Bilateral bronchial wall
thickening and suggestion of soft tissue surrounding the
bilateral mainstem bronchi. Differential diagnosis includes
malignancy versus multifocal infection. Partially imaged upper
abdominal lymphadenopathy raises more concern for neoplastic
process. Tissue sampling would provide further assessment.
Additionally, dedicated CT of the abdomen and pelvis would be
helpful for further assessment.
 
 - Patient was given:  Home Atenolol, lisinopril, atorvastatin
- 2 sets of AF stain sputum stain sent X2

 - Interventional Cardiology  was consulted and recommended
Pericaridal drian placement. 

The patient was taken for pericardial drain placement. 700 cc of
serous fluid was removed. 
 
On arrival to the CCU, patient confirmed the above history.  
 
REVIEW OF SYSTEMS:  

 
Past Medical History:
-HTN
-HLD   
 
 
Social History:
___
Family History:
Patient is adopted and unsure of biological family history. 
Mother died of ?brain cancer.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
VS: Per metavision 
GENERAL: Oriented x3. Mood, affect appropriate.  
HEENT: Sclera anicteric. PERRL. EOMI.    
CARDIAC: Normal rate, regular rhythm. No murmurs.  
LUNGS: Decrease lung sounds in base bilaterally 
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
Neurology: No gross motor or sensory deficits   
 
DISCHARGE PHYSICAL EXAM:
VS: Temp: 97.8 (Tm 99.8), BP: 129/83 (113-133/75-90), HR: 96
(79-97), RR: 16 (___), O2 sat: 94% (91-96), O2 delivery: 2L
(2L-2.5), Wt: 135.8 lb/61.6 kg      

GENERAL: Oriented x3. Mood, affect appropriate. 
HEENT: Sclera anicteric. PERRL. EOMI.    
CHEST: Palpable supraclavicular node, non-tender and 
non-movable.
CARDIAC: Normal rate, regular rhythm. +S1,S2.
LUNGS: Decreased lung sounds in bases. Clear to auscultation
throughout both posteriorly and anteriorly. No accessory muscle
use. No pursed-lip breathing. 
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
BACK: Near where drain had been appears a well-healed
erythematous nodule with overlying sutures.
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
NEURO: No gross motor or sensory deficits   
 
Pertinent Results:
ADMISSION LABS
==============
___ 08:45PM BLOOD WBC-9.0 RBC-4.37* Hgb-12.4* Hct-38.4* 
MCV-88 MCH-28.4 MCHC-32.3 RDW-13.5 RDWSD-43.3 Plt ___
___ 08:45PM BLOOD Neuts-74.4* Lymphs-12.7* Monos-11.6 
Eos-0.8* Baso-0.2 Im ___ AbsNeut-6.68* AbsLymp-1.14* 
AbsMono-1.04* AbsEos-0.07 AbsBaso-0.02
___ 03:00PM BLOOD ___ PTT-26.1 ___
___ 08:45PM BLOOD Plt ___
___ 08:45PM BLOOD Glucose-87 UreaN-13 Creat-0.8 Na-142 
K-5.4* Cl-104 HCO3-24 AnGap-14
___ 08:45PM BLOOD ALT-22 AST-30 LD(LDH)-404* AlkPhos-219* 
TotBili-0.3
___ 08:45PM BLOOD Albumin-3.5 UricAcd-6.1

DISCHARGE LABS
==============
___ 06:40AM BLOOD WBC-8.5 RBC-5.05 Hgb-13.7 Hct-42.8 MCV-85 
MCH-27.1 MCHC-32.0 RDW-13.2 RDWSD-41.0 Plt ___
___ 06:40AM BLOOD Glucose-107* UreaN-14 Creat-0.8 Na-141 
K-4.4 Cl-100 HCO3-27 AnGap-14
___ 06:40AM BLOOD Calcium-8.7 Phos-3.8 Mg-2.1

IMAGING/STUDIES
===============
TTE ___ left atrium is normal in size. Normal left 
ventricular wall thickness, cavity size, and regional/global 
systolic function (biplane LVEF = 74 %). Right ventricular 
chamber size and free wall motion are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve leaflets are structurally normal. There is no 
mitral valve prolapse. Mild (1+) mitral regurgitation is seen. 
There is mild pulmonary artery systolic hypertension. There is a 
very large (>3 cm) pericardial effusion. The effusion appears 
circumferential. There is brief right atrial diastolic collapse. 
There is right ventricular diastolic collapse, consistent with 
impaired fillling/tamponade physiology. There is significant, 
accentuated respiratory variation in mitral/tricuspid valve 
inflows, consistent with impaired ventricular filling. 

IMPRESSION: Very large pericardial effusion with 
echocardiographic signs of tamponade physiology. Normal 
biventricular cavity sizes and systolic function. Mild pulmonary 
artery systolic hypertension.

CT TORSO ___
1. Large simple appearing pericardial effusion. Per the ED, 
patient has been ordered echocardiogram to further assess for 
cardiac tamponade. Small 
bilateral pleural effusions. 
2. Suboptimal assessment of the subsegmental pulmonary arterial 
branches in the lower lobes due to respiratory motion. No 
evidence of pulmonary embolism seen elsewhere. 
3. 3 cm consolidative opacity in the left upper lobe with 
irregular margins as well as additional foci of consolidation in 
the left upper lobe and right middle lobe. Mediastinal and hilar 
adenopathy. Bilateral bronchial wall thickening and suggestion 
of soft tissue surrounding the bilateral mainstem bronchi. 
Differential diagnosis includes malignancy versus multifocal 
infection. Partially imaged upper abdominal lymphadenopathy 
raises more concern for neoplastic process. Tissue sampling 
would provide further assessment. Additionally, dedicated CT of 
the abdomen and pelvis would be helpful for further assessment. 

TTE ___
There is mild to moderate global left ventricular hypokinesis 
(LVEF = 40 %). The right ventricular free wall thickness is 
normal. The right ventricular cavity is mildly dilated with 
depressed free wall contractility. There is a moderate to large 
sized pericardial effusion. The effusion appears 
circumferential. The effusion is echo dense, consistent with 
blood, inflammation or other cellular elements. Stranding is 
visualized within the pericardial space c/w organization. There 
are no echocardiographic signs of tamponade. No right atrial or 
right ventricular diastolic collapse is seen. 

Compared with the prior study (images reviewed) of ___, 
the pericardial effusion is significantly diminished in size, 
but still sizeable (moderate-to-large).  

CXR ___
Compared to chest radiographs ___ through ___.  
Previous 
pericardial drainage catheter has been removed.  ___ of 
the cardiac 
silhouette are comparable or slightly smaller today.  No 
pneumothorax. Left pleural effusion is moderate, with an 
anterior loculation as well as dependent portion.  Atelectasis 
persists in the mid lingula and there is probable radiation 
fibrosis in the left suprahilar lung adjacent to lung nodule. 
  
Right lung is clear.  Subcutaneous emphysema in the left chest 
wall is stable, clinically insignificant. 

MRI BRAIN ___
Read pending at time of discharge.

PET ___
Read pending at time of discharge.

PATHOLOGY
=========
SURG PATH ___
1. Lymph node, "L5", biopsy: Metastatic LUNG ADENOCARCINOMA.
- Positive: TTF-1, Napsin.
- Negative: p40.

___. Lymph node, biopsy: Specimen submitted for flow and 
molecular studies.

4. Pericardium, biopsy: No sign of malignancy

Immunophenotyping, Pericardial fluid, cytogenetics pending
 
Brief Hospital Course:
Mr. ___ is a ___ male, who is an inmate at ___ 
___ who presented with exertional dyspnea, and was 
found to have large pericardial effusion and left upper lobe 
lesion with diffuse mediastinal lymphadenopathy, now s/p 
pericardial drain placement and pericardial window, with 
pathology-proven lung adenocarcinoma.
 
ACUTE ISSUES  
============================  
# Pericardial Effusion
Presented with dyspnea. Patient had pericardial drain placed. 
Due to persistent pericardial fluid, received a pericardial 
window. Pericardial effusion exudative and likely related to 
malignancy, although cytology pending. Pericardial tissue and 
mediastinal LN biopsy preformed during pericardial window 
placement.

# Lung Adenocarcinoma
# Rule Out TB
Mediastinal LN positive for lung adenocarcinoma. PET performed, 
with final results showing dominant left upper lobe 
paramediastinal nodule possibly lung primary with extensive 
neck, chest, abdominal and pelvic lymphadenopathy and moderate 
loculated left pleural effusion as well as small left anterior 
PTX likely from recent chest tube. MRI brain also performed with 
results pending. Due to adenopathy, tested and ruled out for TB 
with 3 negative AFBs prior to pathology returning. Patient set 
up in multidisciplinary thoracic clinic for management of lung 
adenocarcinoma.

# Pneumonia
Patient with presumed pneumonia based on history of cough and 
RLL, LLL consolidation. Afebrile without leukocytosis. Treated 
with 5 day course of ceftriaxone and azithromycin.

# Nocturnal Hypoxemia
Transiently hypoxemic at night, despite being comfortable on RA 
throughout the day and satting well. Could be undiagnosed OSA. 
Could also be ___ known malignancy and related pleural effusion. 
Please monitor oxygen saturation on return to ___. 

# Newly-Reduced EF
On initial echo ___, EF noted to be 74%. Subsequent echo ___ 
with EF reduced to 40%. Could be explained by undiagnosed HFrEF 
initially masked due to effusion & tamponade physiology. 
Continued on metoprolol and lisinopril, to be uptitrated as an 
outpatient. Should undergo TTE in 1 month to further 
characterize.

CHRONIC ISSUES  
============================  
# HTN
Changed atenolol to metoprolol. Lisinopril held, then restarted 
at lower dose. Isosorbide held.

# HLD
Continued home statin.

TRANSITIONAL ISSUES:
====================
[ ] Final read of PET scan and MRI Brain pending at time of 
discharge, will f/u with Thoracic Oncology as above
[ ] Discharged on decreased dose of Lisinopril 5mg due to his BP 
being well controlled on this lower dose. Uptitrate as tolerated 
for BP control.
[ ] TTE with LVEF initially high, then subsequently low at 40%. 
Unclear if this is temporary, related to effusion or permanent. 
Should have repeat TTE in 1 month to further assess.
[ ] Intermittently hypoxemic, mostly at night. Should have sleep 
study to evaluate for OSA. ___ require oxygen if hypoxemia is 
due to mass effect from lung cancer.
[ ] Deconditioned due to hospitalization. Should sleep on a 
lower bunk, as concern that a top bunk would be unsafe and risk 
harm.
[ ] Patient should work with ___ after returning to prison due to 
his deconditioning.

#CODE: DNR/DNI 
#CONTACT/HCP: Penitentiary 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atenolol 25 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. Isosorbide Dinitrate 5 mg PO TID 
5. Lisinopril 20 mg PO DAILY 

 
Discharge Medications:
1.  Guaifenesin-Dextromethorphan 5 mL PO Q6H:PRN cough 
RX *dextromethorphan-guaifenesin [Robitussin Cough-Chest Cong 
DM] 100 mg-5 mg/5 mL 5 ml by mouth every six (6) hours 
Refills:*0 
2.  Metoprolol Succinate XL 12.5 mg PO DAILY 
RX *metoprolol succinate 25 mg 0.5 (One half) tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
3.  Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 40 mg PO QPM  
6. HELD- Isosorbide Dinitrate 5 mg PO TID  This medication was 
held. Do not restart Isosorbide Dinitrate until your PCP 
instructs you to do so if your blood pressure is higher

 
Discharge Disposition:
Extended Care
 
Facility:
 ___
 
Discharge Diagnosis:
Primary Diagnoses
=================
Lung Adenocarcinoma
Pericardial Effusion
Pneumonia

Secondary Diagnoses
===================
Hypertension
Hyperlipidemia
Hypoxemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

WHY WAS I ADMITTED?
- You were admitted because you had fluid around your heart and 
in your lungs.

WHAT WAS DONE WHILE I WAS HERE?
- We drained the fluid around your heart.
- We also treated you with antibiotics for the fluid in your 
lungs, which we think was a pneumonia.
- We took a biopsy of a lymph node which unfortunately showed 
lung cancer.
- We started the process of working up your cancer with a PET 
scan. You will get an MRI of your brain back at ___.

WHAT SHOULD I DO NOW?
- There will be a team of cancer doctors meeting to ___ about 
you and your diagnosis. You will meet them at the appointment 
listed below and they will talk with you about ways to treat the 
cancer.

We know this is a lot to process, and we want you to know for 
sure that we have a plan in place for each step moving forward. 
We wish you the best!
-Your ___ Care Team 
 
Followup Instructions:
___